US04743291
To a stirred solution of 0.75 g (0.0026 mole) of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one and 0.89 g (0.0026 mole) of N-(2,5-dimethoxyphenylsulfonyl)-2-bromopropionamide in 50 mL of acetone was added 1.04 g (0.0026 mole) of potassium carbonate. After complete addition the mixture was heated at 45° C. for two days. The resultant mixture was cooled and the solvent was removed by evaporation under reduced pressure to leave a residue. This residue was dissolved in 100 mL of water. The aqueous solution was acidified by the dropwise addition of concentrated hydrochloric acid producing a precipitate. The precipitate was collected by filtration. The filter cake was washed with water and then dried under reduced pressure to leave 1.23 of N-(2,5-dimethoxyphenylsulfonyl)-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide (mp 168°-172° C.) Compound C90.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0026 mole, 0.75 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | N-(2,5-dimethoxyphenylsulfonyl)-2-bromopropionamide | 0.0026 mole, 0.89 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)NC(C(C)Br)=O | C11H14BrNO5S
reactant | potassium carbonate | 0.0026 mole, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | N-(2,5-dimethoxyphenylsulfonyl)-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionamide | COC1=C(C=C(C=C1)OC)S(=O)(=O)NC(C(C)OC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl)=O | C21H20ClF3N4O7S
